US07763608B2
A mixture of 1-(4-(4-(aminomethyl)-1H-imidazol-1-yl)phenyl)pyridin-2(1H)-one hydrochloride (60 mg, 0.20 mmol) and Pd—C (10%, 31 mg) in MeOH (6 mL) was hydrogenated under balloon H2 overnight. It was then filtered through celite. The filtrate was concentrated in vacuo to give 1-(4-(4-(aminomethyl)-1H-imidazol-1-yl)phenyl)piperidin-2-one (54 mg).

reactant | 1-(4-(4-(aminomethyl)-1H-imidazol-1-yl)phenyl)pyridin-2(1H)-one hydrochloride | 0.20 mmol, 60 mg | Cl.NCC=1N=CN(C1)C1=CC=C(C=C1)N1C(C=CC=C1)=O
solvent | MeOH | 6 mL | CO | CH4O
catalyst | Pd—C | 31 mg | [Pd] | Pd
product | 1-(4-(4-(aminomethyl)-1H-imidazol-1-yl)phenyl)piperidin-2-one | 54 mg | NCC=1N=CN(C1)C1=CC=C(C=C1)N1C(CCCC1)=O | C15H18N4O
